data/rdb19/train.csv
rxn,smiles,ea
4069,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[O:25][H:31])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23]=[O:24])([H:26])([H:27])[H:28],55.66276690369705
2636,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:22]([C:21]([C:20]([H:27])([H:28])[H:29])([H:30])[H:31])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:23]([H:33])([H:34])[H:35],71.30730713886442
536,[C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1][H:2]>>[C:3]([H:13])([H:14])[H:15].[O:1]([H:2])[C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:18])([H:16])[H:17],50.96968886634568
1132,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14](=[C:15]([N:16][C:17](=[O:18])[H:23])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([H:5])[H:22])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],23.923708736081608
1214,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:15]([C:14]([H:22])[H:23])([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10],18.69780782365705
758,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][C:23]([C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([C:22]([H:32])([H:33])[H:34])[H:31])([H:24])[H:25],22.698772724019364
5490,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6](=[O:7])[C:8]([H:14])([H:15])[H:16])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:17](=[C:18]([N:19]([C:20]=[O:21])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([O:5][C:6](=[O:7])[C:8]([H:14])([H:15])[H:16])[H:26])([H:12])[H:13])([H:9])([H:10])[H:11],16.86876308597857
2203,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([H:23])[H:24])([H:25])([H:26])[H:27]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:18])([H:19])([H:20])[C:22]([C:21]([H:25])([H:26])[H:27])([H:23])[H:24],58.399962182709714
2383,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15]([H:29])[c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:1]([C:2]([H:3])([H:4])[H:29])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:24])([H:25])[H:26])([c:12]1[c:13]([H:27])[c:14]([H:28])[c:15][c:16]([H:30])[c:17]1[H:31])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20],25.66431503096828
4817,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[H:30])[H:11])([H:8])([H:9])[H:10],17.999992534983903
614,[C:18]([O:19][O:20])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[O:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][O:20][O:19][C:18]([H:21])([H:22])[H:23],23.92583002411993
